US07056920B2
Step 7: Preparation of 7-(2-chloro-4-methoxyphenyl)-N-(1-ethylpropyl)-2,6-dimethylpyrrolo[1,2-b]pyridazin-4-amine
A mixture of 4-bromo-7-(2-chloro-4-methoxyphenyl)-2,6-dimethylpyrrolo[1,2-b]pyridazine (0.99 g, 2.70 mmol), 1-ethylpropylamine (0.63 mL, 0.47 g, 5.40 mmol), 5-(diphenylphosphino)-9,9-dimethyl-9H-xanthen4-yl](diphenyl)phosphine (0.26 g, 0.40 mmol), Cs2CO3 (1.38 g, 4.20 mmol) and Pd2(dba)3 (0.13 g, 0.14 mmol) in DME (15.0 mL) was refluxed for 17 h. After cooling to room temperature, the mixture was diluted with EtOAc. Water was added and the mixture was separated. The aqueous solution was extracted with EtOAc (2×) and the combined EtOAc solutions was dried (MgSO4) and filtered. The filtrate was concentrated in vacuo to dryness, the residue was subjected to column chromatography (silica gel, 1/10 EtOAc/heptane) to give 0.88 g (87%) of light yellow oil as the title compound. 1H NMR (300 MHz, DMSO-d6) δ 7.36 (d, J=8.5 Hz, 1H), 7.09 (d, J=2.6 Hz, 1H), 6.95 (dd, J=8.5, 2.6 Hz, 1H), 6.29 (s, 1H), 5.54 (s, 1H), 4.16 (d, J=8.4 Hz, 1H), 3.88 (s, 3H), 3.47–3.43 (m, 1H), 2.31 (s, 3H), 2.21 (s, 3H), 1.78–1.66 (m, 2H), 1.64–1.54 (m, 2H), 1.00 (t, J=7.3 Hz, 6H); MS m/z 372.24 (M++H).

reactant | 4-bromo-7-(2-chloro-4-methoxyphenyl)-2,6-dimethylpyrrolo[1,2-b]pyridazine | 2.70 mmol, 0.99 g | BrC=1C=2N(N=C(C1)C)C(=C(C2)C)C2=C(C=C(C=C2)OC)Cl | C16H14BrClN2O
reactant | 1-ethylpropylamine | 5.40 mmol, 0.63 mL, 0.47 g | C(C)C(CC)N | C5H13N
reactant | (diphenyl)phosphine | 0.40 mmol, 0.26 g | C1(=CC=CC=C1)PC1=CC=CC=C1 | C12H11P
reactant | Cs2CO3 | 4.20 mmol, 1.38 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DME | 15.0 mL | COCCOC | C4H10O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd2(dba)3 | 0.14 mmol, 0.13 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | Water | O | H2O
product | 7-(2-chloro-4-methoxyphenyl)-N-(1-ethylpropyl)-2,6-dimethylpyrrolo[1,2-b]pyridazin-4-amine | ClC1=C(C=CC(=C1)OC)C1=C(C=C2N1N=C(C=C2NC(CC)CC)C)C | C21H26ClN3O
